US07737152B2
2-Chloro-6-(indanone-5-oxy)-pyrazine, CJS 511(A)
Using Method DD with 2,6-dichloropyrazine (200 mg, 1.34 mmol) and 5-hydroxyindanone (219 mg, 1.49 mmol), and crystallisation in AcOEt, the title compound was obtained (350 mg). Yield: 100%. 1H NMR (250 MHz, DMSO-d6) δ 2.67 (t, 2H, H3, J=5.9 Hz), 3.13 (t, 2H, H2, J=5.5 Hz), 7.31 (dd, 1H, Harom 6, Jm=1.9 Hz, Jo=8.3 Hz), 7.47 (d, 1H, Harom 4, J=1.3 Hz), 7.73 (d, 1H, Harom 7, J=8.3 Hz), 8.59 (s, 1H, HPz 5), 8.64 (s, 1H, HPz 3). m/z: 261.0 [(M+H)+, calcd for C13H9ClN2O2 260.0].

reactant | 2,6-dichloropyrazine | 1.34 mmol, 200 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 5-hydroxyindanone | 1.49 mmol, 219 mg | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Chloro-6-(indanone-5-oxy)-pyrazine | Yield: 100% | ClC1=NC(=CN=C1)OC=1C=C2CCC(C2=CC1)=O | C13H9ClN2O2
